US09238631B2
f) Di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-{4-[(tert-butoxvcarbonyl)(2-hydroxyethyl)amino]benzyl}hexanedioate
Di-tert-butyl (5S)-2-(4-{[2-(benzyloxy)ethyl](tert-butoxycarbonyl)amino}benzyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate (78 mg, 110 μmol) were dissolved in 10 ml methanol. Palladium (10% on charcoal) (15 mg) was added and the suspension was shaken under a hydrogen atmosphere for 27 h. The catalyst was filtered off, the residue was concentrated in vacuo to yield 65 mg (95%) of the product.

reactant | Di-tert-butyl (5S)-2-(4-{[2-(benzyloxy)ethyl](tert-butoxycarbonyl)amino}benzyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate | 110 μmol, 78 mg | C(C1=CC=CC=C1)OCCN(C1=CC=C(CC(C(=O)OC(C)(C)C)CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C=C1)C(=O)OC(C)(C)C | C40H60N2O9
solvent | methanol | 10 ml | CO | CH4O
catalyst | Palladium | 15 mg | [Pd] | Pd
product | Di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-{4-[(tert-butoxvcarbonyl)(2-hydroxyethyl)amino]benzyl}hexanedioate | 65 mg, 95% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC(C)(C)C)CCC(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)N(CCO)C(=O)OC(C)(C)C | C33H54N2O9
